US06777409B2
1-tert-Butoxycarbonyl-3,4-dihydro-4,4-dimethyl-6-fluoro-2-quinolone
A solution of 6.0 g (30.9 mmol) of 3,4-dihydro-4,4-dimethyl-6-fluoro-2-quinolone in 200 ml of THF is mixed with 8.8 g (40.2 mmol) of di-tert-butyldicarbonate and 4.9 g (40.2 mmol) of DMAP. After 24 hours at room temperature, it is concentrated by evaporation, and the residue is purified by column chromatography on silica gel with hexane-ethyl acetate. Yield: 9.0 g.

reactant | 3,4-dihydro-4,4-dimethyl-6-fluoro-2-quinolone | 30.9 mmol, 6.0 g | CC1(CC(NC2=CC=C(C=C12)F)=O)C | C11H12FNO
reactant | di-tert-butyldicarbonate | 40.2 mmol, 8.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 200 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 40.2 mmol, 4.9 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-tert-Butoxycarbonyl-3,4-dihydro-4,4-dimethyl-6-fluoro-2-quinolone | C(C)(C)(C)OC(=O)N1C(CC(C2=CC(=CC=C12)F)(C)C)=O | C16H20FNO3
